US06624179B1
Preparation of α-(4-tert-Butylphenyl)-β-[(ethylthio)carbonyloxy]-β-(2-trifluoromethylphenyl)acrylonitrile (Isomer Ratio 2:98, Compound A)
A mixture comprising 2.0 g of 4-tert-butylbenzyl cyanide, 2.34 g of 2-trifluoromethylbenzoyl chloride and 8 ml of dimethylformamide, was dropwise added to a mixture comprising 0.83 g of 68% sodium hydride and 13 ml of dimethylformamide, while maintaining the temperature at 40° C. After completion of the dropwise addition, the reaction was carried out at room temperature for 30 minutes. The reaction mixture was cooled with ice, and a mixture comprising 1.77 g of ethyl chlorothiolformate and 1.2 ml of dimethylformamide, was dropwise added. After completion of the dropwise addition, the reaction was carried out for 30 minutes under cooling with ice. The reaction mixture was poured into ice water and extracted with methylene chloride, followed by washing with water. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluting solvent: ethyl acetate/n-hexane=1/9) to obtain 3.9 g of a desired product (isomer ratio 2:98) having a melting point of 116 to 117° C. The HPLC conditions for the analysis of this product and the NMR spectrum data of this product are as follows.

reactant | 4-tert-butylbenzyl cyanide | 2.0 g | C(C)(C)(C)C1=CC=C(CC#N)C=C1 | C12H15N
reactant | 2-trifluoromethylbenzoyl chloride | 2.34 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | sodium hydride | 0.83 g | [H-].[Na+]
reactant | ethyl chlorothiolformate | 1.77 g | ClC1=C(SC=C1)C(=O)OCC | C7H7ClO2S
reactant | dimethylformamide | 1.2 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | α-(4-tert-Butylphenyl)-β-[(ethylthio)carbonyloxy]-β-(2-trifluoromethylphenyl)acrylonitrile | 3.9 g | C(C)(C)(C)C1=CC=C(C=C1)C(C#N)=C(C1=C(C=CC=C1)C(F)(F)F)OC(=O)SCC | C23H22F3NO2S
